US09428503B2
Intermediate K4: 6-Bromo-4-chloro-7-fluoroquinoline-3-carboxamide
DMF (0.5 mL) was added to a stirred suspension of 6-bromo-7-fluoro-4-oxo-1H-quinoline-3-carboxylic acid (22.5 g, 78.66 mmol) in thionyl chloride (140 g, 1179.85 mmol) and the mixture heated to reflux for 2 h. The reaction was allowed to cool concentrated in vacuo and the residue azeotroped twice with toluene to afford a yellow solid. This solid was added portion wise to a solution of ammonium hydroxide (147 mL, 1179.85 mmol) at 0° C. The white suspension was stirred for 15 minutes then the solid filtered, washed with water and dried under vacuum to afford the desired material (23.80 g, 100%) as a white powder. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 8.92 (1H, s), 8.59 (1H, d), 8.21 (1H, s), 8.09 (1H, d), 7.98 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=304.8.

reactant | 6-bromo-7-fluoro-4-oxo-1H-quinoline-3-carboxylic acid | 78.66 mmol, 22.5 g | BrC=1C=C2C(C(=CNC2=CC1F)C(=O)O)=O | C10H5BrFNO3
reactant | thionyl chloride | 1179.85 mmol, 140 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 1179.85 mmol, 147 mL | [OH-].[NH4+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-4-chloro-7-fluoroquinoline-3-carboxamide | 23.80 g, 100% | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)N)Cl | C10H5BrClFN2O
